US07378418B2
16A Preparation of 2-bromo-N,4-dimethylpentanamide
To the solution of DL-alpha-bromoisocaproic acid in THF (4 ml) was added N-methylmorphine (0.18 ml, 1.63 mmol), followed by dropwise addition of isobutylchloroformate (0.15 ml, 1.16 mmol). A white solid precipitate was formed. After stirring at RT for 1.5 h, the white solid was filtered. Methylamine (1 ml, 2N in THF) was added to the filtrate. The reaction mixture was concentrated after 0.5 hour. The resultant crude material was diluted with ethyl acetate and washed with water. The organic layer was dried over Na2SO4 and concentrated to give the title compound, 2-bromo-N,4-dimethylpentanamide, (0.18 g, 78%) as an oil.

reactant | alpha-bromoisocaproic acid | BrC(C(=O)O)CC(C)C | C6H11BrO2
reactant | N-methylmorphine | 1.63 mmol, 0.18 ml | CN1CC[C@]23[C@@H]4[C@H]1CC5=C2C(=C(C=C5)OC)O[C@H]3[C@H](C=C4)O | C18H21NO3
reactant | isobutylchloroformate | 1.16 mmol, 0.15 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-bromo-N,4-dimethylpentanamide | 0.18 g, 78% | BrC(C(=O)NC)CC(C)C | C7H14BrNO
